US05958942
i) Synthesis of 4,5-dihydro-4-(piperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylene-3,5-dione-dihydrochloride
To a suspension of 7.99 g (20.8 mmol) of 4,5-dihydro-4-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione in 50 ml of ethanol was added dropwise 25 ml of conc.HCl. The mixture was stirred for two hours at room temperature. The resulting crystalline precipitates were collected by filtration, washed with ethanol and then with ether to afford 7.07 g (87.4%, a colorless solid substance) of the desired compound

reactant | 4,5-dihydro-4-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione | 20.8 mmol, 7.99 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1=O)N32)=O | C20H24N4O4
reactant | HCl | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4,5-dihydro-4-(piperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylene-3,5-dione-dihydrochloride | Cl.Cl.N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1=O)N32)=O | InChI=1S/C15H16N4O2.2ClH/c20-14-11-2-1-3-13-17-8-12(19(11)13)15(21)18(14)9-10-4-6-16-7-5-10;;/h1-3,8,10,16H,4-7,9H2;2*1H
